US08703768B2
6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid {4-[(2-hydroxy-ethyl)-methyl-carbamoyl]-pyridin-3-yl}-amide
According to the general method described in step 3 of example 53, reaction of 2-methylamino-ethanol with 3-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carbonyl]-amino}-isonicotinic acid provided the title compound (32%) as amorphous yellow solid.

reactant | 2-methylamino-ethanol | CNCCO | C3H9NO
reactant | 3-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carbonyl]-amino}-isonicotinic acid | C1(CC1)C1=CC=C(C(=N1)C(=O)NC1=C(C(=O)O)C=CN=C1)NC=1C=NC=NC1 | C19H16N6O3
product | 6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid {4-[(2-hydroxy-ethyl)-methyl-carbamoyl]-pyridin-3-yl}-amide | 32% | OCCN(C(=O)C1=C(C=NC=C1)NC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)C1CC1)C | C22H23N7O3
